US08633237B2
a) N-(5-hydroxy-2,3-dihydro-1H-inden-1-yl)propane-2-sulfonamide
To a stirred solution of N-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1H-inden-1-yl)propane-2-sulfonamide (1.5 g, 4.11 mmol) in acetone (15 mL) was added dropwise a solution of oxone (2.78 g, 4.52 mmol) in water (15 mL). The resulting mixture stirred for another 10 min before the reaction mixture quenched with Na2O5S2 solution and diluted with DCM. The organic layer was separated, washed with brine (2×) and dried on Na2SO4. Solvent evaporated in vacuo to afford the title compound as a white solid (1.05 g, 100%). MS (ESI): m/z [M−H]− 254.0

reactant | N-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1H-inden-1-yl)propane-2-sulfonamide | 4.11 mmol, 1.5 g | CC1(OB(OC1(C)C)C=1C=C2CCC(C2=CC1)NS(=O)(=O)C(C)C)C | C18H28BNO4S
reactant | oxone | 4.52 mmol, 2.78 g | OOS(=O)[O-].[K+]
solvent | acetone | 15 mL | CC(=O)C | C3H6O
solvent | water | 15 mL | O | H2O
product | N-(5-hydroxy-2,3-dihydro-1H-inden-1-yl)propane-2-sulfonamide | 1.05 g, 100% | OC=1C=C2CCC(C2=CC1)NS(=O)(=O)C(C)C | C12H17NO3S
